US05254559
Preparation of [3-Chloro-5-(p-chlorophenyl)-4-cyano-2-(trifluoromethyl)pyrrole-1-yl]dimethyldithiocarbamic acid, methyl ester
A mixture of 4-chloro-1-(chloromethyl)-2-(p-chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile (0.7 g, 0.002 mol) and dimethyldithiocarbamic acid, sodium salt (0.57 g, 0.004 mol) in dimethyl formamide is heated at 50°-55° for 30 minutes, cooled to room temperature and poured into water. The resultant mixture is extracted with ethyl acetate. The combined extracts are washed with a saturated sodium chloride solution, dried (MgSO4) and concentrated in vacuo to give an orange oil residue. The residue is mixed with hot hexane, cooled and filtered to give an orange solid filtercake. Recrystallization of the solid from isopropanol gives the title product as a tan crystaline solid, 0.7 g (80% yield), mp 129°-131° C.

reactant | 4-chloro-1-(chloromethyl)-2-(p-chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile | 0.002 mol, 0.7 g | ClC=1C(=C(N(C1C(F)(F)F)CCl)C1=CC=C(C=C1)Cl)C#N | C13H6Cl3F3N2
reactant | dimethyldithiocarbamic acid | CN(C(S)=S)C | C3H7NS2
reactant | sodium | 0.004 mol, 0.57 g | [Na] | Na
reactant | water | O | H2O
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | [3-Chloro-5-(p-chlorophenyl)-4-cyano-2-(trifluoromethyl)pyrrole-1-yl]dimethyldithiocarbamic acid, methyl ester | 80% yield | ClC1=C(N(C(=C1C#N)C1=CC=C(C=C1)Cl)S(C(N(C)C)=S)C)C(F)(F)F | C16H14Cl2F3N3S2
